US06669925B1
Ferrocene complex.
To a solution of N-(9-azabicyclo[3.3.1] nonan-3a-yl)-N′-(2-methoxy-5-methylphenyl) carbamate (350 mg, 1.15 mmol) in toluene (10 mL) was added 4-bromobutyrylferrocene (385 mg, 1.15 mmol), potassium iodide (166 mg, 1.00 mmol), and triethylamine (500 mg, 4.94 mmol). The reaction mixture was refluxed overnight. Upon completion of reaction (as shown by TLC), the mixture was cooled to room temperature. Silica gel (1 g) was added, and the solvent was evaporated. The resulting solid was layered onto a silica gel column and eluted with 5% methanol in methylene chloride. The desired compound was isolated in 15 % yield (100 mg): mp 94-95° C.; 1H NMR (300 MHz, CDCl3) δ 7.89 (s, 1H), 7.13 (s, 1H), 6.75-6.84 (m, 2H), 5.19-5.21 (m, 1H), 4.80 (s, 2H), 4.56 (s, 2H), 4.21 (s, 5H), 3.92 (s, 3H), 3.65 (s, 2H), 3.16-3.24 (m, 2H), 2.90-2.98 (m, 4H), 2.40-2.52 (m, 3H), 2.31 (s, 3H), 2.00-2.06 (m, 3H), 1.70-1.78 (m, 4H).

reactant | 4-bromobutyrylferrocene | 1.15 mmol, 385 mg | BrCCCC(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | potassium iodide | 1.00 mmol, 166 mg | [I-].[K+]
reactant | triethylamine | 4.94 mmol, 500 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Ferrocene | 15 % yield | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/2C5H5.Fe/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
